US07601714B2
N2-(trans-4-{[(5-cyano-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)glycinamide
A mixture of 2-bromoacetamide (30 mg, 0.21 mmol), 4-{[(trans-4-aminocyclohexyl)methyl]amino}-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidine-5-carbonitrile (117 mg, 0.28 mmol) and DIPEA (74 mL, 0.43 mmol) in DMF (1 mL) was stirred at 50° C. for 4 h. The reaction mixture was then diluted with EtOAc (30 mL) and washed with water (3×3 mL) and brine. The organic phase was dried over Na2SO4 and concentrated. Silica gel preparative TLC of the crude product using 10:1:0.05 CH2Cl2:MeOH:NH4OH as an eluent afforded 28 mg (27%) of the title compound as a white solid, m/z 476.5 [M−1]+

reactant | 2-bromoacetamide | 0.21 mmol, 30 mg | BrCC(=O)N | C2H4BrNO
reactant | 4-{[(trans-4-aminocyclohexyl)methyl]amino}-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidine-5-carbonitrile | 0.28 mmol, 117 mg | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1C#N)NCC1=C(C=CC=C1)OC(F)(F)F | C20H23F3N6O
reactant | DIPEA | 0.43 mmol, 74 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N2-(trans-4-{[(5-cyano-2-{[2-(trifluoromethoxy)benzyl]amino}pyrimidin-4-yl)amino]methyl}cyclohexyl)glycinamide | 28 mg, 27% | C(#N)C=1C(=NC(=NC1)NCC1=C(C=CC=C1)OC(F)(F)F)NC[C@@H]1CC[C@H](CC1)NCC(=O)N | C22H26F3N7O2
